US05892048
To a solution of 1.1 g of 5-(4-chlorobenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole in 15 ml of ethyl alcohol at 0° C. was added potionwise 0.06 g of sodium borohrdride. After 30 minutes, the rection mixture was poured into iced water and extracted with chloroform, the chloroform solution was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was washed with n-hexane to afford 1.0 g of 5-(4-chloro-α-hydroxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole.

reactant | 5-(4-chlorobenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 1.1 g | ClC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C16H12Cl2FN3
reactant | sodium | 0.06 g | [Na] | Na
reactant | water | O | H2O
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
product | 5-(4-chloro-α-hydroxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 1.0 g | ClC1=CC=C(C(O)C2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C16H12Cl2FN3O
